US08106064B2
A mixture of 2,4-dichloro-6-methylpyrimidine (12.5 g, 76.65 mmol), N-chloro succinimide (12.28 g, 92 mmol), and benzoyl peroxide (2.78 g, 11.5 mmol) in carbon tetrachloride (150 ml) was refluxed for 24 hr. After cooling to room temperature, the mixture was filtered and evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, from hexane to 2% ether in hexane) to afford 6 g (40%) of 2,4-dichloro-6-chloromethyl-pyrimidine as a white solid. 1H NMR (200 MHz, CDCl3) δ 4.58 (2H, s), 7.55 (1H, s).

reactant | 2,4-dichloro-6-methylpyrimidine | 76.65 mmol, 12.5 g | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | N-chloro succinimide | 92 mmol, 12.28 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | benzoyl peroxide | 11.5 mmol, 2.78 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,4-dichloro-6-chloromethyl-pyrimidine | 6 g, 40% | ClC1=NC(=CC(=N1)Cl)CCl | C5H3Cl3N2
